US04822801
Ethyl 5-Amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
A suspension of 1.9 g (5.3 mmoles) of ethyl 1-cyclopropyl-5-nitro-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 0.5 g of Raney nickel and 100 ml of ethanol was shaken in a hydrogen atmosphere at pressures of 42.5-50 psi and temperatures of 24°-26.5° C. for ten hours. The mixture was filtered through Celite and some insoluble product was dissolved in tetrahydrofuran with filtration. The combined filtrates were evaporated in vacuo and the residue was chromatographed on silica gel to give 600 mg of the title compound, mp 223°-225° C.

reactant | ethyl 1-cyclopropyl-5-nitro-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 5.3 mmoles, 1.9 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)[N+](=O)[O-])=O)C(=O)OCC | C15H11F3N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-Amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 600 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)OCC)=O | C15H13F3N2O3
